US07727989B2
b) 4-(1H-Benzimidazol-2-yl)-6-imidazol-1-y-2H-pyridazin-3-one
40 mg of 4-[1-(2-dimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-6-imidazol-1-yl-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one are dissolved in 2 ml of a 1:1 mixture of dichloromethane and trifluoroacetic acid, and the mixture is stirred at room temperature for 2 hours. The volatile components are then distilled off, the residue is dissolved in 1 ml of methanol, and 1 ml of a two molar aqueous sodium hydroxide solution is added. The solution is stirred at room temperature for 12 hours and then put directly onto the preparative RP-HPLC (0-100% acetonitrile (+0.05% formic acid) in water (+0.05% formic acid)) to isolate the product.

reactant | 4-[1-(2-dimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-6-imidazol-1-yl-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one | 40 mg | C[SiH](CCOCN1C(=NC2=C1C=CC=C2)C=2C(N(N=C(C2)N2C=NC=C2)COCC[Si](C)(C)C)=O)C | C25H36N6O3Si2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(1H-Benzimidazol-2-yl)-6-imidazol-1-y-2H-pyridazin-3-one | N1C(=NC2=C1C=CC=C2)C=2C(NN=C(C2)N2C=NC=C2)=O | C14H10N6O
